US07652053B2
To a solution of 4-trifluoromethylbenzene-1,2-dicarboxylic acid (5.85 g, 25 mmol) in THF (50 mL) at −78° C. was added borane in THF (1.0 M, 75 mL) and the mixture was stirred for 10 minutes. The mixture was then allowed to warm to room temperature and stirred overnight. Methanol (30 mL) was added and solvents were evaporated. The mixture was partitioned between ether and aqueous hydrochloric acid (1N). The organic layer was washed with brine and concentrated sodium bicarbonate solution. After the evaporation of solvents, colorless oil was obtained as (2-hydroxymethyl-4-trifluoromethyl-phenyl)-methanol (5.15 g). 1H-NMR (CDCl3) □ 7.58 (m, 2H), 7.51 (s 1H), 4.79 (s, 4H), 2.88 (m, 2H).

reactant | 4-trifluoromethylbenzene-1,2-dicarboxylic acid | 25 mmol, 5.85 g | FC(C=1C=C(C(=CC1)C(=O)O)C(=O)O)(F)F | C9H5F3O4
reactant | borane | B | BH3
reactant | Methanol | 30 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 75 mL | C1CCOC1 | C4H8O
product | (2-hydroxymethyl-4-trifluoromethyl-phenyl)-methanol | 5.15 g | OCC1=C(C=CC(=C1)C(F)(F)F)CO | C9H9F3O2
